US04929741
A solution of 6.7 ml (80 mmol) of methyl propiolate in 80 ml of tetrahydrofuran was treated at -78° under argon with 53.1 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 11.94 g (80 mmol) of 4-dimethylaminobenzaldehyde in 80 ml of tetrahydrofuran was added within 30 minutes. The reaction mixture was stirred at -78° for a further 20 minutes then brought to room temperature and treated with 120 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ether, the combined organic phases were washed in sequence with saturated sodium chloride solution and with water, dried over sodium sulphate and concentrated. The residue was purified by flash chromatography on 1000 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1). There was obtained methyl 4-[4-(dimethylamino)phenyl)-4-hydroxy-2-butynoate as a red oil.

reactant | methyl propiolate | 80 mmol, 6.7 ml | C(C#C)(=O)OC | C4H4O2
reactant | n-butyllithium | 1.6M, 53.1 ml | C(CCC)[Li]
reactant | 4-dimethylaminobenzaldehyde | 80 mmol, 11.94 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | ammonium chloride | 120 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | methyl 4-[4-(dimethylamino)phenyl)-4-hydroxy-2-butynoate | CN(C1=CC=C(C=C1)C(C#CC(=O)OC)O)C | C13H15NO3
